US07084145B2
3-Oxo-3-[N′-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-hydrazino]-propionic acid tert-butyl ester
A mixture of the hydrazine from preparation 35 (2.2 g, 10 mmol), tert-butyl malonate (1.6 g, 10 mmol), 1-hydroxybenzotriazole hydrate (2.02 g, 15 mmol), triethylamine (4.8 ml, 20 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.4 g, 12.5 mmol) in dichloromethane (50 ml) was stirred at room temperature for 5 hours. The reaction was diluted with dichloromethane (200 ml), washed with water (150 ml), dried (MgSO4) and evaporated under reduced pressure. The residual oil was purified by column chromatography on silica gel using ethyl acetate as eluant to afford the title compound, as a white solid, 1.4 g.

reactant | hydrazine | NN | H4N2
reactant | tert-butyl malonate | 10 mmol, 1.6 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-hydroxybenzotriazole hydrate | 15 mmol, 2.02 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 20 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.5 mmol, 2.4 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-Oxo-3-[N′-(3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-hydrazino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(NNC(=O)C1CCN(CC1)C1=NC=CC=C1)=O)=O | C18H26N4O4
